US07906517B2
Benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-carbamate (11.5 g), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium dichloromethane complex (3.51 g), potassium acetate (6.33 g) and bis(pinacolato)diboron (10.9 g) are dissolved in dimethylsulfoxide (75 ml), and the mixture is heated to 80° C. under nitrogen atmosphere and stirred for 30 minutes. The reaction solution is cooled to room temperature and thereto are added water and ethyl acetate, and the insoluble materials are removed by filtration through Celite™, and the mixture is separated and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in tetrahydrofuran (100 ml) and thereto is added dropwise a 30% aqueous hydrogen peroxide solution (50 ml) under ice-cooling and the mixture is stirred for 1 hour. Thereto is added a saturated aqueous sodium thiosulfate solution under ice-cooling to consume the excess hydrogen peroxide, followed by an addition of water and ethyl acetate, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-carbamate (9.70 g). MS (m/z): 472 [M+H]+

reactant | Benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-carbamate | 11.5 g | FC(C=1C=C(CN(C(OCC2=CC=CC=C2)=O)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C21H14BrF6N3O2
reactant | potassium acetate | 6.33 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 10.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-carbamate | 9.70 g | FC(C=1C=C(CN(C(OCC2=CC=CC=C2)=O)C2=NC=C(C=N2)O)C=C(C1)C(F)(F)F)(F)F | C21H15F6N3O3
